US05880147
47(i) N-(2-t-Butyl-5-methoxycarbonylphenyl)-3-(4-t-butoxycarbonylmethoxy-2-methoxyphenyl)octanamide
Following a similar procedure to that described in Preparation 45A(i), but using N-(2-t-butyl-5-methoxycarbonylphenyl)-3-(4-hydroxy-2-methoxyphenyl)-octanamide (prepared as described in Preparation 46) and t-butyl bromoacetate, the title compound was obtained as a foam-like substance.

reactant | N-(2-t-butyl-5-methoxycarbonylphenyl)-3-(4-hydroxy-2-methoxyphenyl)-octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)OC)NC(CC(CCCCC)C1=C(C=C(C=C1)O)OC)=O | C27H37NO5
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | N-(2-t-Butyl-5-methoxycarbonylphenyl)-3-(4-t-butoxycarbonylmethoxy-2-methoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)OC)NC(CC(CCCCC)C1=C(C=C(C=C1)OCC(=O)OC(C)(C)C)OC)=O | C33H47NO7
